US04997986
1-[2-[(6-Bromohexyl)oxy]ethyl]naphthalene
1-Naphthaleneethanol (3.00 g) and 1,6-dibromohexane (12.73 g) were treated according to the method of Intermediate 1. FCC eluting with cyclohexane followed by ethyl acetate-cyclohexane (1:20, then 1:4) gave the title compound (4.32 g) as a colourless oil.

reactant | 1-Naphthaleneethanol | 3.00 g | C1(=CC=CC2=CC=CC=C12)CCO | C12H12O
reactant | 1,6-dibromohexane | 12.73 g | BrCCCCCCBr | C6H12Br2
product | 1-[2-[(6-Bromohexyl)oxy]ethyl]naphthalene | 4.32 g | BrCCCCCCOCCC1=CC=CC2=CC=CC=C12 | C18H23BrO
